US08431575B2
To a stirred solution of 2-(4-benzyloxy-phenyl)-N-methoxy-N-methyl-acetamide (42.1 mmol, 12.0 g) in anhydrous THF at −10° C. was added n-butyl magnesium chloride (2.0 M solution in THF, 92.6 mmol, 46.3 mL) drop-wise. After completion of addition, the reaction mixture was warmed to room temperature and stirred for 30 min. The reaction mixture was cooled to 0° C. and quenched with 1.0 N HCl by adding drop-wise. The reaction mixture was poured into water, extracted with ethyl acetate, and the combined extract was washed with water followed by brine. The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The resultant residue was purified by column chromatography using 10% ethyl acetate in hexanes to provide 1-(4-benzyloxy-phenyl)-hexan-2-one.

reactant | 2-(4-benzyloxy-phenyl)-N-methoxy-N-methyl-acetamide | 42.1 mmol, 12.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)N(C)OC | C17H19NO3
reactant | n-butyl magnesium chloride | 92.6 mmol, 2.0 M, 46.3 mL | C(CCC)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-benzyloxy-phenyl)-hexan-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(CCCC)=O | C19H22O2
